* PSpice/LTspice Model Modified for Ngspice (KiCad) - TC Fix
* LM317 TRANSIENT MODEL (Texas Instruments)
* *****************************************************************************
.SUBCKT LM317_TRANS IN ADJ OUT_0 OUT_1
R_R1         VXX IN  {RINP}  
R_R6         N242982 VYY  10 
R_R5         VZZ VYY  {ROUT}  
E_ABM1       N242982 0 VALUE { MIN(V(VXX), (V(Vzz)+(ILIM*ROUT))) }
R_R2         N222524 VXX  {PSRR*RINP}  
R_U1_R2      0 U1_N26728  1G  
E_U1_ABM5    U1_N31197 0 VALUE { MIN(V(U1_N26728), MAX(V(IN) - {DROP}, 0)) }
C_U1_C2      0 U1_N26728  1n  
R_U1_R1      0 U1_N08257  1G  
R_U1_R4      U1_N28933 U1_N26728  10 
R_U1_R5      U1_N31197 N222524  10 
C_U1_C3      0 N222524  1n  
X_U1_U2      IN U1_N12783 U1_N12664 U1_UVLO_OK COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
C_U1_C1      0 U1_N08257  {1e-6*SQRT(TTRN)}  
V_U1_V4      U1_N12783 0 {UVLO}
V_U1_V3      U1_N12664 0 {UHYS}
E_U1_ABM6    U1_EN_OUT 0 VALUE { (V(U1_UVLO_OK) > 0.6) ? {VREF} : 0 }
R_U1_R3      U1_EN_OUT U1_N08257  {3.333e5*SQRT(TTRN)} 
E_U1_ABM4    U1_N28933 0 VALUE { V(U1_N08257)*(ABS(V(OUT_0))/(ABS(V(OUT_0)-V(ADJ))+1e-12)) }
X_U2         0 OUT_0 d_d
X_F1         VZZ OUT_0 IN VYY LM317_TRANS_F1 
C_C1         VXX IN  {1/(6.28*RINP*POLE)}  
C_C2         VXX N222524  {1/(6.28*PSRR*RINP*ZERO)}  
C_C3         0 VYY  1n  
.PARAM psrr=7.9432e-4 uvlo=0 ilim=2.2 pole=15k rinp=1e7 zero=100e6 rout=0.4m
+ ttrn=1e-4 vref=1.25 uhys=0 drop=.5
.ENDS LM317_TRANS
*$
.SUBCKT LM317_TRANS_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1        1 2 0V
.ENDS LM317_TRANS_F1
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
E_ABM Yint 0 VALUE { (V(INP) > V(INM)) ? {VDD} : {VSS} }
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { (V(1) > {VTHRESH}) ? -V(HYS) : 0 }
EOUT OUT 0 VALUE { (V(INP2) > V(INM1)) ? {VDD} : {VSS} }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT COMPHYS2_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5 T=10
EIN INP1 INM1 INP INM 1 
EHYS INM2 INM1 VALUE { (V(1) > {VTHRESH}) ? -V(HYS)/2 : V(HYS)/2 }
EOUT OUT 0 VALUE { (V(INP1) > V(INM2)) ? {VDD} : {VSS} }
R1 OUT 1 1
C1 1 0 {T*1e-9}
RINP1 INP1 0 10K
RINM2 INM2 0 10K
.ENDS COMPHYS2_BASIC_GEN
*$
.SUBCKT D_D 1 2
D1 1 2 DD
.MODEL DD D (IS=1E-015 N=0.01 TT=1e-011)
.ENDS D_D